US08614209B2
2-Chloro-5-phenyl-thiophene-3-carboxylic acid
2-Chloro-5-phenyl-thiophene-3-carboxylic acid ethyl ester (0.44 g, 1.65 mmol) was dissolved in a solution of 1 M NaOH (3 mL) and ethanol (2 mL). The reaction mixture was heated to 100° C. using microwave irradiation for 10 minutes. After cooling, the reaction mixture was partitioned between diethyl ether and water. The aqueous solution was acidified with 1 M HCl and further extracted with diethyl ether. The combined organic solutions were dried over magnesium sulfate, filtered and the solvent evaporated. The residue was triturated in diethyl ether and filtered to give the title compound (0.17 g). 1H NMR (400 MHz, CHCl3-d): δ 7.6 (s, 1H), 7.55 (d, 2H), 7.4-7.3 (m, 3H).

reactant | 2-Chloro-5-phenyl-thiophene-3-carboxylic acid ethyl ester | 1.65 mmol, 0.44 g | C(C)OC(=O)C1=C(SC(=C1)C1=CC=CC=C1)Cl | C13H11ClO2S
solvent | NaOH | 1 M, 3 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-Chloro-5-phenyl-thiophene-3-carboxylic acid | 0.17 g | ClC=1SC(=CC1C(=O)O)C1=CC=CC=C1 | C11H7ClO2S
